US08044069B2
(R)-1-benzhydryl-3-methylpiperazine
A solution of the dihydrochloride of R-methylpiperazine (Tetrahedron Lett. 1994, 35, 16, 2533-2536)(0.42 g, 2.42 mmol) in N,N-dimethylformamide (3 mL) was treated with bromodiphenylmethane (0.6 g, 2.42 mmol), potassium carbonate (1.17 g, 8.5 mmol), and a catalytic amount of potassium iodide. The resultant reaction mixture was then stirred at ambient temperature overnight. Then the reaction mixture was concentrated and partitioned between water/methylene chloride. The organic layer was dried over magnesium sulfate, concentrated and the residue was purified by preparative HPLC on a Waters Nova-Pak® HR C18 6 um 60 Å Prep-Pak® cartridge column (40 mm×100 mm) using a gradient of 10% to 100% acetonitrile in 10 mM aqueous ammonium acetate over 12 minutes at a flow rate of 70 mL/min to provide the title compound.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | bromodiphenylmethane | 2.42 mmol, 0.6 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | potassium carbonate | 8.5 mmol, 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (R)-1-benzhydryl-3-methylpiperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@H](NCC1)C | C18H22N2
